US07863305B2
To a solution of 3-indol-1-yl-3-phenyl-propionic acid methyl ester (0.2 g, 0.71 mmol) in THF (5 mL) at 0° C. was added 1M LiAlH4 in THF (0.71 mL), and the mixture was stirred for 0.5 hours at room temperature. The reaction mixture was quenched by the cautious addition of Na2SO4.10H2O and the reaction mixture was stirred for another 1 h at room temperature. The mixture was filtered and the solvent was removed under vacuum. 3-Indol-1-yl-3-phenyl-propan-1-ol was obtained as a clear oil (0.166 g, 92% yield).

reactant | 3-indol-1-yl-3-phenyl-propionic acid methyl ester | 0.71 mmol, 0.2 g | COC(CC(C1=CC=CC=C1)N1C=CC2=CC=CC=C12)=O | C18H17NO2
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.71 mL | C1CCOC1 | C4H8O
product | 3-Indol-1-yl-3-phenyl-propan-1-ol | N1(C=CC2=CC=CC=C12)C(CCO)C1=CC=CC=C1 | C17H17NO
